US09353096B2
Solutions of 4.006 g (15 mmol) of 2-bromo-1-(3-trifluoromethylphenyl)-ethanone, 15 mL of anhydrous tetrahydrofuran and 15 mL of 1M borane-THF in tetrahydrofuran were added simultaneously to a stirring solution of 1.5 mL of 1M (R)-(3aR)-tetrahydro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole in toluene and 15 mL of anhydrous tetrahydrofuran, cooled in an ice water bath at ca. 15 degrees, over 12.5 minutes. The cooling bath was removed and the mixture stirred at room temperature. After 1.5 h, ca. 0.48 g of methanol was added dropwise (gas evolution) and the mixture stirred for 5 minutes, then 15 mL of 2 M sodium hydroxide was added over 3 minutes. The mixture was stirred at room temperature. After 1.5 h, the mixture was concentrated under reduced pressure to remove the tetrahydrofuran, and the remaining aqueous phase was extracted twice with diethyl ether. The combined ether extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 2.553 g (90%) of (R)-2-(3-trifluoromethyl-phenyl)oxirane as a light amber liquid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.87 (dd, J=5.27, 2.51 Hz, 1H) 3.12 (dd, J=5.27, 4.02 Hz, 1H) 4.04 (dd, J=4.27, 2.51 Hz, 1H) 7.54-7.58 (m, 2H) 7.60 (s, 1H) 7.62-7.67 (m, 1H).

reactant | 2-bromo-1-(3-trifluoromethylphenyl)-ethanone | 15 mmol, 4.006 g | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | borane THF | 1M, 15 mL | B.C1CCOC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (R)-2-(3-trifluoromethyl-phenyl)oxirane | 2.553 g, 90% | FC(C=1C=C(C=CC1)[C@H]1OC1)(F)F | C9H7F3O
